US06774130B2
To a solution of (R)-1-(5-acetoxyhexyl)-3,7-dimethyl-8-azaxanthine (71 mg, 0.22 mmol) in methanol (15 ml) was added an anhydrous solution of hydrogen chloride in ethyl ether (1 M, 1.0 ml, 1.0 mmol). The mixture was stirred at room temperature for 24 hours and then the solvent was evaporated under reduced pressure. The crude product was purified by flash chromatography on silica gel eluting with ethyl acetate-methanol (7:1) to provide (R)-3,7-dimethyl-1-(5-hydroxyhexyl)-8-azaxanthine (CT 12464) (55 mg, 88% yield) as a white solid.

reactant | (R)-1-(5-acetoxyhexyl)-3,7-dimethyl-8-azaxanthine | 0.22 mmol, 71 mg | C(C)(=O)O[C@@H](CCCCN1C(=O)N(C=2N=NN(C2C1=O)C)C)C | C14H21N5O4
reactant | hydrogen chloride | Cl | ClH
reactant | ethyl ether | 1.0 mmol, 1 M, 1.0 ml | C(C)OCC | C4H10O
solvent | methanol | 15 ml | CO | CH4O
product | (R)-3,7-dimethyl-1-(5-hydroxyhexyl)-8-azaxanthine | 55 mg, 88% yield | CN1C(N(C(C=2N(N=NC12)C)=O)CCCC[C@@H](C)O)=O | C12H19N5O3
